US04483857
4-Amino-6,7-dimethoxy-2-piperazino-quinazoline (3.44 g, 0.012 mole) and 2-chloro-4-phenylpyrimidine (2.5 g, 0.011 mole) (J. Chem. Soc., 2328 (1951)) in n-butanol (250 ml) were heated under reflux for six hours. After cooling the solid product was collected, washed with diethylether, and partitioned between chloroform and saturated aqueous sodium carbonate solution. The chloroform layer was separated, the aqueous layer extracted with chloroform and the combined chloroform layers were washed with water, dried (Na2SO4) and evaporated in vacuo. The residue (5 g) was chromatographed on silica eluting with chloroform and chloroform-methanol (97.5:2.5 by volume). Appropriate fractions were combined, evaporated and the resulting solid crystallized from dimethylformamide (DMF)/diethyl ether to give 4-amino-6,7-dimethoxy-2-[4-(4-phenylpyrimidin-2-yl)-piperazino] quinazoline hemihydrate, (2.28 g), m.p. 250° C. (dec).

reactant | 4-Amino-6,7-dimethoxy-2-piperazino-quinazoline | 0.012 mole, 3.44 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
reactant | 2-chloro-4-phenylpyrimidine | 0.011 mole, 2.5 g | ClC1=NC=CC(=N1)C1=CC=CC=C1 | C10H7ClN2
solvent | n-butanol | 250 ml | C(CCC)O | C4H10O
product | 4-amino-6,7-dimethoxy-2-[4-(4-phenylpyrimidin-2-yl)-piperazino] quinazoline hemihydrate | 2.28 g | O.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C1=NC=CC(=N1)C1=CC=CC=C1.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C1=NC=CC(=N1)C1=CC=CC=C1 | InChI=1S/2C24H25N7O2.H2O/c2*1-32-20-14-17-19(15-21(20)33-2)28-24(29-22(17)25)31-12-10-30(11-13-31)23-26-9-8-18(27-23)16-6-4-3-5-7-16;/h2*3-9,14-15H,10-13H2,1-2H3,(H2,25,28,29);1H2
